US08937071B2
To a mixture of 2-(4-(5-ethoxy-6-((4-methoxybenzyl)oxy)pyridin-3-yl)-2-fluorophenyl)-N-(6-(2-hydroxypropan-2-yl)-5-(trifluoromethyl)pyridin-3-yl)acetamide (70 mg, 0.114 mmol) in MeOH (10 mL) was added Pd/C (7 mg, 0.066 mmol). The mixture was stirred under a H2 atmosphere at 25° C. for 16 h. Then the reaction residue was filtered and concentrated. The crude material was purified by preparative HPLC (MeCN/H2O as eluants, basic condition) to yield a white solid of 2-(4-(5-ethoxy-6-oxo-1,6-dihydropyridin-3-yl)-2-fluorophenyl)-N-(6-(2-hydroxypropan-2-yl)-5-(trifluoromethyl)pyridine-3-yl)acetamide (5.71 mg, 0.011 mmol, 10.9% yield): 1H NMR (400 MHz, CD3OD) δ 8.90 (s, 1H), 8.48 (s, 1H), 7.48-7.43 (m, 1H), 7.40-7.32 (m, 3H), 7.26 (d, J=2.01 Hz, 1H), 4.15 (m, 2H), 3.86 (s, 2H), 1.62 (s, 6H), 1.49 (t, J=7.03 Hz, 3H); ES-LCMS m/z 494.2 (M+H).

reactant | 2-(4-(5-ethoxy-6-((4-methoxybenzyl)oxy)pyridin-3-yl)-2-fluorophenyl)-N-(6-(2-hydroxypropan-2-yl)-5-(trifluoromethyl)pyridin-3-yl)acetamide | 0.114 mmol, 70 mg | C(C)OC=1C=C(C=NC1OCC1=CC=C(C=C1)OC)C1=CC(=C(C=C1)CC(=O)NC=1C=NC(=C(C1)C(F)(F)F)C(C)(C)O)F | C32H31F4N3O5
solvent | MeOH | 10 mL | CO | CH4O
catalyst | Pd/C | 0.066 mmol, 7 mg | [Pd] | Pd
product | 2-(4-(5-ethoxy-6-oxo-1,6-dihydropyridin-3-yl)-2-fluorophenyl)-N-(6-(2-hydroxypropan-2-yl)-5-(trifluoromethyl)pyridine-3-yl)acetamide | 0.011 mmol, 5.71 mg, 10.9% yield | C(C)OC1=CC(=CNC1=O)C1=CC(=C(C=C1)CC(=O)NC=1C=NC(=C(C1)C(F)(F)F)C(C)(C)O)F | C24H23F4N3O4
